US06960598B2
A mixture of 3-bromopyridine (3.37 mL, 5.53 g, 35 mmol), 2-fluorobenzeneboronic acid (6.12 g, 43.8 mmol) and potassium fluoride (6.71 g, 116 mmol) in THF (50 mL) was degassed with nitrogen for 10 min. Tris(dibenzylideneacetone)dipalladium(0) (0.64 g, 0.70 mmol) and tri(tert-butyl)phosphine (7 mL of a 0.2 M solution in dioxane, 1.4 mmol) were added. A solid precipitated, giving a thick slurry which was stirred under nitrogen for 15 min, then at 50° C. for 30 min. After cooling to room temperature, the mixture was partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium chloride solution, then was dried over magnesium sulfate and pre-adsorbed on to silica gel. Purification by flash chromatography on silica gel eluting with isohexane (+0.5% methanol +0.5% triethylamine) on a gradient of 20% to 40% ethyl acetate afforded 3-(2-fluorophenyl)pyridine as a pale yellow oil, which crystallised upon standing. δH (360 MHz, DMSO) 7.33-7.40 (2H, m), 7.46-7.55 (2H, m), 7.61 (1H, ddd, J 8, 8 and 2), 7.96-8.01 (1H, m), 8.61 (1H, dd, J 5 and 2), 8.77 (1H, s).

reactant | 3-bromopyridine | 35 mmol, 3.37 mL, 5.53 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-fluorobenzeneboronic acid | 43.8 mmol, 6.12 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium fluoride | 116 mmol, 6.71 g | [F-].[K+]
reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.70 mmol, 0.64 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-fluorophenyl)pyridine | FC1=C(C=CC=C1)C=1C=NC=CC1 | C11H8FN
